Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fevers, malaise
 
Major Surgical or Invasive Procedure:
N/A
 
History of Present Illness:
___ y/o M with PMHx of HTN, HL, DM on metformin who p/w 3 days of 
fevers, chills, cough and poor oral intake.  Pt reports that 
symptoms began on ___ with chills, myalgias, sore throat and 
subjective fevers.  He tried some OTC cough medicine but 
continued to feel weak, LH and tired with any exertion.  He 
tried to go bowling on ___ but was exhausted and slept for 
> 12hrs.  He developed cough with clear sputum with fevers which 
prompted ED evaluation.

On arrival to the ED, pt was febrile to 101.9, tachycardic and 
normotensive.  He was treated with IVF, Tylenol and was found to 
be influenza A positive.  CXR did not reveal any infiltrate and 
pt was started on Oseltamivir.  

On arrival to the floor, pt reports feeling a little better with 
ongoing cough and generalized soreness.  Denies any N/V/D, 
dysuria, ___ edema, sore throat, abd pain, rash, falls, SOB or 
DOE.  He reports some chest soreness with coughing and poor 
appetite over the last few days.  He denies any sick contacts 
and lives with a friend who is not sick.   

 
Past Medical History:
Hypertension
Hyperlipidemia
Diabetes controlled with metformin

 
Social History:
___
Family History:
none relevant to this admission
 
Physical Exam:
ADMISSION
GEN: well appearing male in NAD, appears younger than stated age
HEENT: MM slightly dry 
CV: RRR no apprec m
RESP: CTAB no w/r
ABD: soft, NT, ND, NABS
GU: no foley
EXTR: warm, no edema
PSYCH: alert, appropriate, normal affect
LYMPH: no cervical adenopathy

DISCHARGE
GEN: well appearing male in NAD, appears younger than stated age
HEENT: MM slightly dry 
CV: RRR no apprec m
RESP: CTAB no w/r
ABD: soft, NT, ND, NABS
GU: no foley
EXTR: warm, no edema
PSYCH: alert, appropriate, normal affect
LYMPH: no cervical adenopathy
 
Pertinent Results:
ADMISSION LABS
___ 07:00PM BLOOD WBC-8.6 RBC-5.39 Hgb-13.7 Hct-45.5 MCV-84 
MCH-25.4* MCHC-30.1* RDW-14.9 RDWSD-45.4 Plt ___
___ 06:20AM BLOOD WBC-7.7 RBC-5.11 Hgb-13.1* Hct-42.8 
MCV-84 MCH-25.6* MCHC-30.6* RDW-14.6 RDWSD-44.7 Plt ___
___ 05:30AM BLOOD WBC-5.7 RBC-4.61 Hgb-11.8* Hct-38.3* 
MCV-83 MCH-25.6* MCHC-30.8* RDW-15.0 RDWSD-45.6 Plt ___

DISCHARGE LABS
___ 06:00AM BLOOD WBC-5.6 RBC-4.66 Hgb-11.7* Hct-38.4* 
MCV-82 MCH-25.1* MCHC-30.5* RDW-14.8 RDWSD-45.0 Plt ___
___ 06:00AM BLOOD ___ PTT-37.0* ___
___ 06:00AM BLOOD Glucose-103* UreaN-19 Creat-0.9 Na-148* 
K-5.1 Cl-108 HCO3-27 AnGap-13
___ 06:00AM BLOOD Calcium-8.9 Phos-3.3 Mg-1.6
___ 05:30AM BLOOD VitB12-389 Hapto-197
___ 05:30AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG

Influenza A: positive

CXR ___:
Elevation of the left hemidiaphragm of indeterminate age with 
associated left basilar linear atelectasis. No acute 
cardiopulmonary abnormality otherwise identified. 

Abdominal ultrasound ___:
1. Unremarkable sonographic appearance of the liver.  No focal 
liver lesions identified. 
2. Spleen is normal in size. 
3. 2.8 cm cystic lesion in the lower pole of the right kidney 
with a thick 
internal septation and possible mural nodule. Further evaluation 
with a 
non-emergent renal MRI is recommended. 

 
Brief Hospital Course:
#Acute Influenza A: Treated with Tamiflu as well as 
acetaminophen, guaifenison, and albuterol. The patients symptoms 
improved and he felt ready to return home to continue his 
recovery. He asked for a work letter as he will stay home from 
work for the remainder of this week.

#Thrombocyotpenia: Plts 108, increased to 131 on day of 
discharge. No previous values in Atrius records. Could be acute 
and secondary to infection. Was present on admission making HIT 
unlikely. Lacks anemia. Neg hep B, C abs, LDH, hapto, vitamin 
b12. RUQ US given left elevated hemidiaphragm unremarkable but 
does have incidental 2.8 cm cystic lesion in the lower pole of 
the right kidney with a thick 
internal septation and possible mural nodule; further evaluation 
with a 
nonemergent renal MRI is recommended. 

Hypertension: pt normotensive despite sepsis from flu. Held 
diuretics with acute infection but resumed amlodipine and will 
resume diuretics on discharge as patient's vital signs have been 
stable.

Hyperlipidemia: cont home simvastatin

Diabetes, well controlled with HgbA1c of 7%: Continued Metformin 
1000mg BID

Transitional issue
==================
- Incidental 2.8 cm cystic lesion in the lower pole of the right 
kidney with a thick 
internal septation and possible mural nodule; further evaluation 
with a 
nonemergent renal MRI is recommended. 
- Recheck platelets at next PCP visit to ensure continuing to 
uptrend

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. amLODIPine 10 mg PO DAILY 
3. Simvastatin 10 mg PO QPM 
4. MetFORMIN (Glucophage) 1000 mg PO BID 
5. Omeprazole 20 mg PO DAILY 
6. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
7. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Benzonatate 100 mg PO TID 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
as needed Disp #*30 Capsule Refills:*0 
2.  Guaifenesin-Dextromethorphan 5 mL PO Q6H:PRN cough 
RX *dextromethorphan-guaifenesin [Antitussive DM] 100 mg-10 mg/5 
mL 5 ml by mouth every 6 hours as needed Disp #*1 Package 
Refills:*1 
3.  OSELTAMivir 30 mg PO BID 
RX *___ 30 mg 1 capsule(s) by mouth twice a day Disp #*3 
Capsule Refills:*0 
4.  amLODIPine 10 mg PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  MetFORMIN (Glucophage) 1000 mg PO BID  
7.  Omeprazole 20 mg PO DAILY  
8.  Simvastatin 10 mg PO QPM  
9.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  
10.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Influenza
Thrombocytopenia
Incidental renal cyst

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to ___ with influenza. We treated you with a 
medication called Tamiflu to help shorten the length of your 
symptoms as well as medications for cough and pain. Please 
continue to take these medications as prescribed.

We also noticed that your platelet count was low during your 
admission. Please ask your primary care doctor to repeat testing 
for this at your next visit to ensure that it is continuing to 
go up. 

Sincerely,
Your ___ team
 
Followup Instructions:
___